US05461050
A mixture of 17.8 g of [2-(1-methyl-1H-pyrrol-2-yl)ethyl]methanesulfonate (ester), 11.7 g of 1H-imidazole, 14 g of potassium carbonate and 410 ml of tetrahydrofuran was stirred for 3 days at reflux temperature. After cooling, the reaction mixture was evaporated and the residue was taken up in water. The product was extracted with dichloromethane and the extract was dried, filtered and evaporated. The residue was purified by column chromatography (silica gel; CH2C12 /CH3OH 95:5). The eluent of the desired fraction was evaporated and the residue was co-evaporated with methylbenzene (3×). The product was filtered off and dried, yielding 9.3 g (61.7%) of 1-[2-(1-methyl-1H-pyrrol-2-yl)ethyl]-1H-imidazole (interm. 1);

reactant | [2-(1-methyl-1H-pyrrol-2-yl)ethyl]methanesulfonate | 17.8 g | CN1C(=CC=C1)CCCS(=O)(=O)[O-]
reactant | 1H-imidazole | 11.7 g | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 14 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 410 ml | O1CCCC1 | C4H8O
product | 1-[2-(1-methyl-1H-pyrrol-2-yl)ethyl]-1H-imidazole | 9.3 g, 61.7% | CN1C(=CC=C1)CCN1C=NC=C1 | C10H13N3
